US08541401B2
Monomenthyl succinate (0.5 g, 1.95 mmol) was dissolved in ethanol (6.3 ml). Sodium carbonate solution (0.207 g, 1.95 mmol in 10 ml DI H2O) was slowly added to the monomenthyl succinate solution at room temperature. The mixture was allowed to stir for 19 hours. Water and ethanol were removed by rotary evaporator at 50° C., followed by high vacuum line at 50° C. to give sodium monomenthyl succinate as a fine white powder.

reactant | Monomenthyl succinate | 1.95 mmol, 0.5 g | C(CCC(=O)[O-])(=O)OC1CC(CCC1C(C)C)C
reactant | Sodium carbonate | 1.95 mmol, 10 ml, 0.207 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 6.3 ml | C(C)O | C2H6O
product | sodium monomenthyl succinate | C(CCC(=O)[O-])(=O)OC1CC(CCC1C(C)C)C.[Na+] | InChI=1S/C14H24O4.Na/c1-9(2)11-5-4-10(3)8-12(11)18-14(17)7-6-13(15)16;/h9-12H,4-8H2,1-3H3,(H,15,16);/q;+1/p-1
